US08012966B2
2-(5-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-5′-(4-hydroxy-1-methyl-piperidin-4-ylmethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 1 with 5-(4-hydroxy-1-methyl-piperidin-4-ylmethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 5-fluoro-1,3-dihydro-indol-2-one as starting materials to give 2-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-5-(4-hydroxy-1-methyl-piperidin-4-ylmethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (16 mg, 37.98%) as an orange solid.

reactant | 5-(4-hydroxy-1-methyl-piperidin-4-ylmethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | OC1(CCN(CC1)C)CN1C(C2=C(CC1)NC(=C2C)C=O)=O | C16H23N3O3
reactant | 5-fluoro-1,3-dihydro-indol-2-one | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
product | 2-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-5-(4-hydroxy-1-methyl-piperidin-4-ylmethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 16 mg, 37.98% | FC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C=2C(N(CCC2N1)CC1(CCN(CC1)C)O)=O)C | C24H27FN4O3
